US03997572
5.5 Parts of acenaphthene-1,2-dicarboxylic acid is heated in an oil bath with an excess of concentrated ammonium hydroxide. After most of the excess of ammonium hydroxide has distilled off, the temperature of the oil bath is raised to 200° C. and it is maintained at that temperature for 45 minutes. The residual material is sublimed under vacuum (0.05-0.1 mm.) using an oil bath at 280° C. The resultant solid is recrystallized from ethanol to give acenaphthene-1,2-dicarboximide melting at about 242°-246° C.

reactant | acenaphthene-1,2-dicarboxylic acid | C1(C(C2=CC=CC3=CC=CC1=C23)C(=O)O)C(=O)O | C14H10O4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | acenaphthene-1,2-dicarboximide | C12C(C3=CC=CC4=CC=CC1=C34)C(NC2=O)=O | C14H9NO2
